US07482341B2
N-(5-Cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-2,5-difluoro-benzenesulfonamide
This material was prepared in analogy to example 1 from 5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-ylamine (0.053 g) and 2,5-difluoro-benzenesulfonyl chloride (0.059 g) as a light yellow solid (0.063 g). MS (ESI−): 367.0 ([M−H]−)

reactant | 5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-ylamine | 0.053 g | C1(CC1)COCC=1C=CC(=NC1C)N | C11H16N2O
reactant | 2,5-difluoro-benzenesulfonyl chloride | 0.059 g | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | N-(5-Cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-2,5-difluoro-benzenesulfonamide | C1(CC1)COCC=1C=CC(=NC1C)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C17H18F2N2O3S
